US07772238B2
Ethyl 6-{2-[2-(4-methoxybenzoyl)hydrazino]-2-oxoethyl}-1-benzothiophene-2-carboxylate.
To a solution of [2-(ethoxycarbonyl)-1-benzothien-6-yl]acetic acid (100 mg, 0.38 mmol) and 4-methoxybenzohydrazide (63 mg, 0.38 mmol) in 2 mL DMF was added 3-{[(ethylimino)methylene]amino}-N,N-dimethylpropane-1-aminium chloride (91 mg, 0.47 mmol). The reaction was stirred at ambient temperature for 12 hours. The reaction mixture was loaded directly onto a reverse phase C18 column for purification to give 78 mg (49%) of the title compound as a white solid. LC/MS (EI): cal'd 413.1 (MH+), exp 413.1 (MH+).

reactant | [2-(ethoxycarbonyl)-1-benzothien-6-yl]acetic acid | 0.38 mmol, 100 mg | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)CC(=O)O | C13H12O4S
reactant | 4-methoxybenzohydrazide | 0.38 mmol, 63 mg | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | 3-{[(ethylimino)methylene]amino}-N,N-dimethylpropane-1-aminium chloride | 0.47 mmol, 91 mg | [Cl-].C(C)N=C=NCCC[NH+](C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-{2-[2-(4-methoxybenzoyl)hydrazino]-2-oxoethyl}-1-benzothiophene-2-carboxylate | 78 mg, 49% | COC1=CC=C(C(=O)NNC(CC2=CC3=C(C=C(S3)C(=O)OCC)C=C2)=O)C=C1 | C21H20N2O5S
